US07488823B2
Step D: 7-Methoxy-quinazoline-4,6-diol
Piperidine (3 mL, 31 mmol) was added to a mixture of 2-Amino-5-hydroxy-4-methoxy-benzoic acid (8.1 g, 44.26 mmol) and triazine (5.38 g, 66.4 mmol) in MeOH (60 mL). The reaction was then heated to reflux and stir for 6 hours. The reaction was cool to 0oC. The product was isolated by filtration and washed with cold MeOH to give 6.37 g (33.2 mmol, 75%) of desired product.

reactant | Piperidine | 31 mmol, 3 mL | N1CCCCC1 | C5H11N
reactant | 2-Amino-5-hydroxy-4-methoxy-benzoic acid | 44.26 mmol, 8.1 g | NC1=C(C(=O)O)C=C(C(=C1)OC)O | C8H9NO4
reactant | triazine | 66.4 mmol, 5.38 g | N1=NN=CC=C1 | C3H3N3
solvent | MeOH | 60 mL | CO | CH4O
product | 7-Methoxy-quinazoline-4,6-diol | 33.2 mmol, 6.37 g, 75% | COC1=C(C=C2C(=NC=NC2=C1)O)O | C9H8N2O3
